US08912330B2
6-(1-benzothiophen-3-yl)-1-(benzyloxy)-1H-pyrrolo[3,2-b]pyridine
The entitled compound was prepared from 1-(benzyloxy)-6-bromo-1H-pyrrolo[3,2-b]pyridine and 1-benzothiophen-3-ylboronic acid according to the procedure described in Example 1.

reactant | 1-(benzyloxy)-6-bromo-1H-pyrrolo[3,2-b]pyridine | C(C1=CC=CC=C1)ON1C=CC2=NC=C(C=C21)Br | C14H11BrN2O
reactant | 1-benzothiophen-3-ylboronic acid | S1C=C(C2=C1C=CC=C2)B(O)O | C8H7BO2S
product | 6-(1-benzothiophen-3-yl)-1-(benzyloxy)-1H-pyrrolo[3,2-b]pyridine | S1C=C(C2=C1C=CC=C2)C=2C=C1C(=NC2)C=CN1OCC1=CC=CC=C1 | C22H16N2OS
